Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]#[C:3][C@@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:13]([H:14])([H:15])[H:16].[H:1][C:2]#[C:3][C@:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])[H:12],4.12100638027
[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[H:7])[O:8][C:9]([H:10])([H:11])[H:12]>>[H:7].[O:1]=[C:2]([C:3]=[C:4]([H:5])[H:6])[O:8][C:9]([H:10])([H:11])[H:12],2.24739356853
[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])=[O:9]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])[O:9][C:10]([H:11])([H:12])[H:13],-0.635862238271
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[H:8],5.50246110789
[H:1]/[C:2]([C:3]([H:4])([H:5])[C:6]=[O:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6][O:7][C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],1.7168568440399998
[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([O:8][H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15].[O:8][H:9],2.98051829866
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[H:8].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([O:9][H:10])=[C:11]([H:12])[H:13],1.55287286803
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]=[C:11]([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:8](\[H:9])[C:10]=[C:11]([H:12])[H:13].[H:7],4.01128928179
[C:2](=[O:3])=[C:4]([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]>>[O:1][C:2](=[O:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],-4.43881408477
[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4]#[C:5]>>[H:1][C:2][O:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10],-6.052060728380001
[O:1]=[C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[O:6][C:7]([H:8])=[C:9][H:10],2.50134369481
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2].[O:3]=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],2.43505832937
[C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3]>>[H:1][C:2]#[C:3][C:4]([O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-5.36862653129
[C:4][C:5]([H:6])([H:7])[H:8].[H:1][C:2](=[O:3])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-1.53602516979
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])[H:10])=[C:12]([H:13])[H:14],4.31072912235
[H:4].[O:1]=[C:2][C:3](=[C:5]=[O:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2][C:3]([H:4])([C:5]=[O:6])[C:7]([H:8])([H:9])[H:10],-1.56963116659
[H:11].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9][H:10]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-5.12449500919
[H:1][C:2]#[C:3][C:4]#[C:5][C:7]([H:8])([H:9])[H:10].[H:6]>>[H:1][C:2]#[C:3][C:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-2.1426862783500003
[C:6]=[C:7]([H:8])[H:9].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:10][H:11]>>[O:1]=[C:2]([H:3])[C@@:4]([H:5])([C:6]=[C:7]([H:8])[H:9])[O:10][H:11],-2.55810429845
[C:6]([H:7])=[C:8]([H:9])[O:10][H:11].[H:1][O:2][C:3]#[C:4][H:5]>>[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11],-2.67524110717
[O:1]=[C:2][C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[O:3][H:4]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12],-6.07064701926
[C:1]#[C:2][O:3][C:4]([H:5])[H:6].[C:7]=[O:8]>>[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]=[O:8],-0.204369420871
[H:1][C:2][O:9][C:8][C:5]([C:3][H:4])([H:6])[H:7]>>[H:1][C:2]1=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8][O:9]1,-8.006762354880001
[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]([O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],1.97942584917
[H:1][C:2]#[C:3][O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:4]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-2.04427579501
[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][O:11][C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])=[C:7]([H:8])[H:9].[O:10][O:11][C:12]([H:13])([H:14])[H:15],0.27450950508
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])=[C:7][H:8]>>[C:5]([H:6])#[C:7][H:8].[O:1]=[C:2][O:3][H:4],1.53240708714
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[O:15][H:16]>>[H:1][O:2][C:3]([H:4])[C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[O:15][H:16].[H:5],4.23242895901
[O:1]=[C:2]([H:3])[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11]>>[O:1]=[C:2]([H:3])[C:4]1[O:5][C@@:6]1([H:7])[C:8]([H:9])([H:10])[H:11],-2.28558167529
